US08871756B2
1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidine-3-carboxamide
To a cooled solution of 1-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidine-3-carbonyl chloride (100 mg, 0.21 mmol) in dichloromethane (20 mL) was added a saturated solution of ammonia in dichloromethane (10 mL) slowly at 0° C. After being stirred for 16 hours at room temperature, the mixture was concentrated in vacuo. The residue was purified by preparative HPLC to afford 13 mg of the desired product (yield was 13.5%). MS obsd. (ESI+) [(M+H)+] 451, 1H NMR (400 MHz, CD3OD) δ ppm 8.08-8.05 (m, 2 H), 7.33-7.31 (d, J=7.6 Hz, 1 H), 7.70-7.67 (m, 2 H), 7.57-7.55 (m, 2 H), 5.85 (s, 1 H), 5.25 (s, 2 H), 4.5 (s, 2 H), 4.03-3.94 (m, 4 H), 3.71 (s, 2 H), 3.29-3.21 (m, 1 H), 2.45 (s, 3 H), 2.41-2.32 (m, 1 H), 2.31-2.21 (m, 1 H).

reactant | 1-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidine-3-carbonyl chloride | 0.21 mmol, 100 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2CC(CC2)C(=O)Cl)C)=O | C24H24ClN3O3S
reactant | ammonia | N | H3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidine-3-carboxamide | 13 mg, yield was 13.5% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2CC(CC2)C(=O)N)C)=O | C24H26N4O3S
